US05162520
Trifluoroacetic acid (7 ml) was added dropwise to a suspension of 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-(3-amino-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate trihydrochloride (3.3 g) and anisole (3.5 ml) in methylene chloride (10 ml) at ambient temperature. After being stirred at the same temperature for 4 hours, the mixture was poured into diisopropyl ether (300 ml), and the resulting precipitate was collected by filtration. The precipitate was dissolved in water (100 ml), and the solution was adjusted to pH 2 with 5% aqueous solution of sodium bicarbonate. The aqueous solution was subjected to column chromatography on macroporous non-ionic adsorption resin "Diaion HP-20". The desired product was eluted with 5% aqueous isopropyl alcohol solution and lyophilized to give 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-(3-amino-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate (syn isomer) (515 mg).

reactant | Trifluoroacetic acid | 7 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-(3-amino-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate trihydrochloride | 3.3 g | Cl.Cl.Cl.NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)N)C)C(=O)[O-])C1=O)=NOC(C)(C)C(=O)OC(C)(C)C
reactant | anisole | 3.5 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | diisopropyl ether | 300 ml | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-(3-amino-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate | 515 mg | NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)N)C)C(=O)[O-])C1=O)=NOC(C)(C)C(=O)O | C20H23N9O7S2
